US07378435B2
5-Isopropyl-3-(3-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester
To a stirred solution of 3.39 g (53 mmol) of NaOEt in 30 mL of EtOH, at 0° C., was added dropwise 8.56 mL (53 mmol) of ethyl isobutyrylacetate (commercially available) in 10 mL of EtOH. The reaction mixture was stirred at room temperature for 40 minutes, and then 8.68 g (0.05 mol) solution of 3-fluoro-benzaldehyde-chloro-oxime (Prepared according to: J. Agric. Food Chem. 1995, 43, 219-228.) in 30 mL of EtOH was added dropwise in an ice-bath and the resulting suspension was stirred at room temperature for 2 h. The mixture was then evaporated and the residue partitioned between 200 mL of ethyl acetate and 100 mL of H2O. The aqueous phase was then separated and extracted with ethyl acetate (2×60 mL). The combined organic extracts were washed with brine (100 mL), dried over Na2SO4 and evaporated to give 15 g of crude product (purity ˜30%) as a yellow syrup. The crude product was used in the subsequent hydrolysis without purification.

reactant | NaOEt | 53 mmol, 3.39 g | CC[O-].[Na+]
reactant | ethyl isobutyrylacetate | 53 mmol, 8.56 mL | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | 3-fluoro-benzaldehyde-chloro-oxime | ClON=CC1=CC(=CC=C1)F | C7H5ClFNO
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH | 30 mL | CCO | C2H6O
product | 5-Isopropyl-3-(3-fluoro-phenyl)-isoxazole-4-carboxylic acid ethyl ester | 15 g | C(C)OC(=O)C=1C(=NOC1C(C)C)C1=CC(=CC=C1)F | C15H16FNO3
